US07192968B2
(1R*,2R*,4S*)-N1-[(5-Chloroindol-2-yl)carbonyl]-4-ethoxycarbonyl-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine
(1R*,2R*,4S*)-N2-tert-Butoxycarbonyl-N1-[(5-chloroindol-2-yl)carbonyl]-4-ethoxycarbonyl-1,2-cyclohexanediamine was treated with a saturated ethanol solution of hydrochloric acid and then condensed with lithium 5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]-pyridine-2-carboxylate in a similar manner to Example 118 to obtain the title compound.

reactant | (1R*,2R*,4S*)-N2-tert-Butoxycarbonyl-N1-[(5-chloroindol-2-yl)carbonyl]-4-ethoxycarbonyl-1,2-cyclohexanediamine | C(C)(C)(C)OC(=O)N[C@H]1[C@@H](CC[C@@H](C1)C(=O)OCC)NC(=O)C=1NC2=CC=C(C=C2C1)Cl | C23H30ClN3O5
reactant | hydrochloric acid | Cl | ClH
reactant | lithium 5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]-pyridine-2-carboxylate | CN1CC2=C(CC1)N=C(S2)C(=O)[O-].[Li+]
solvent | ethanol | C(C)O | C2H6O
product | (1R*,2R*,4S*)-N1-[(5-Chloroindol-2-yl)carbonyl]-4-ethoxycarbonyl-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclohexanediamine | ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@H]1[C@@H](C[C@H](CC1)C(=O)OCC)NC(=O)C=1SC=2CN(CCC2N1)C | C26H30ClN5O4S
